US08138181B2
To a solution of (trans)-tert-butyl 3-fluoro-4-(quinolin-8-yloxy)piperidine-1-carboxylate (5.4 g, 15.6 mmol) in 100 mL DCM was added neat TFA (24.0 ml, 311.78 mmol). The reaction mixture was stirred at ambient temperature for 4 hours, after which it was concentrated. The resulting residue was dissolved in 40 mL DCM, and this solution was added dropwise by addition funnel to a flask containing vigorously stirring 60 mL 2 M HCl in ether in 500 mL ether, causing precipitation. The solids were isolated by filtration through a medium pore glass fritted funnel by forcing solvent through the frit with nitrogen pressure, rinsed with ether, and dried in vacuo to give 8-(trans-3-fluoropiperidin-4-yloxy)quinoline dihydrochloride (6.6 g, 21 mmol) as a solid which was used without further purification in the next step. LC/MS ESI (+) m/z 247 (M+H)− detected.

reactant | (trans)-tert-butyl 3-fluoro-4-(quinolin-8-yloxy)piperidine-1-carboxylate | 15.6 mmol, 5.4 g | F[C@@H]1CN(CC[C@H]1OC=1C=CC=C2C=CC=NC12)C(=O)OC(C)(C)C | C19H23FN2O3
reactant | TFA | 311.78 mmol, 24.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 8-(trans-3-fluoropiperidin-4-yloxy)quinoline dihydrochloride | 21 mmol, 6.6 g | Cl.Cl.F[C@@H]1CNCC[C@H]1OC=1C=CC=C2C=CC=NC12 | InChI=1S/C14H15FN2O.2ClH/c15-11-9-16-8-6-12(11)18-13-5-1-3-10-4-2-7-17-14(10)13;;/h1-5,7,11-12,16H,6,8-9H2;2*1H/t11-,12-;;/m1../s1
